US06355683B1
Methyl 3-bromophenylacetate (8.0 g, 34.9 mmol) was reacted with ethylene using the procedure described in Example 6, step 1. The crude reaction product was purified by column chromatography (SiO2, 5% EtOAc in petroleum ether) to give 3,3′-bis-[(carbo-methoxy)methyl]stilbene and methyl 3-(ethenyl)phenyl-acetate as a white solid mixture.

reactant | Methyl 3-bromophenylacetate | 34.9 mmol, 8.0 g | BrC=1C=C(C=CC1)CC(=O)OC | C9H9BrO2
reactant | ethylene | C=C | C2H4
product | methyl 3-(ethenyl)phenyl-acetate | C(=C)C=1C=C(C=CC1)CC(=O)OC | C11H12O2
